//============================================
// Define VDD and VSS
//============================================
VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0

//============================================
// Half cell
//============================================
subckt HALFCELL (IN OUT BL WL VDD VBP VSS VBN)
  MP (OUT IN VDD VBP) PU_TRANSISTOR width=wpu1 length=lpu1
  MN (OUT IN VSS VBN) PD_TRANSISTOR width=wpd1 length=lpd1
  MT (BL WL OUT VBN) PG_TRANSISTOR width=wpg length=lpg
ends HALFCELL

//============================================
// Inverter 
//============================================
subckt INV (IN OUT VDD VBP VSS VBN)
  MP (OUT IN VDD VBP) PU_TRANSISTOR width=wpu2 length=lpu2
  MN (OUT IN VSS VBN) PD_TRANSISTOR width=wpd2 length=lpd2
ends INV

//====================================================
// Subcircuit to measure SNM value
//====================================================
subckt SNMmeas (U INV1in INV1out INV2in INV2out v1mv2)
  e1 (1 0 U 0) vcvs gain=1/sqrt(2)
  e2 (INV1in 1 v1 0) vcvs gain=1/sqrt(2)
  ev1 (v1 U INV1out 0) vcvs gain=sqrt(2)
  Rdummy  (v1 0)  resistor r=100M
  Rdummy2 (v2 0) resistor r=100M
  Rdummy3 (v1mv2 0) resistor r=100M

  e3 (3 0 U 0) vcvs gain=-1/sqrt(2)
  e4 (INV2in 3 v2 0) vcvs gain=1/sqrt(2)
  enu (nu 0 U 0) vcvs gain=-1
  ev2 (v2 nu INV2out 0) vcvs gain=sqrt(2)
  ediff1 (negv2 0 v2 0) vcvs gain=-1
  ediff2 (v1mv2 negv2 v1 0) vcvs gain=1
ends SNMmeas


//============================================
// Test Read SNM
//============================================
ICellAh (in1h out1h BL WL VDD VDD VSS VSS) HALFCELL 
ICellBi (in2h out2h VDD VDD VSS VSS) INV
Isnmh (U in1h out1h in2h out2h v1mv2h) SNMmeas

VU (U 0) vsource dc=pvIn
VWL (WL 0) vsource dc=0
VBL (BL 0) vsource dc=pvdd
