//============================================
// Define VDD and VSS
//============================================

VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0


//============================================
// Gate voltages 
//============================================

VVGS (VGS VSS) vsource dc=pvdd



//============================================
// Source that will swing VDS from 0V to VDD
// 	to generate IDVD curves
//============================================

VVDS (VDS VSS) vsource


//============================================
// Five transistors  to generate the five IDVD
//	curves
//============================================

N1 (VDS VGS VSS VSS) PG_TRANSISTOR width=wdef length=ldef



