//============================================
// Define VDD and VSS
//============================================

VVDD (VDD 0) vsource dc=pvdd 
VVSS (VSS 0) vsource dc=pvss
VVBN (VBN 0) vsource dc=pvbn

//============================================
// Source that will swing VGS from 0V to VDD 
//============================================

VVGS (VGS VSS) vsource


//============================================
// Drain bias
//============================================

VVDS1 (VDS1 VSS) vsource dc=pvdd
VVDS2 (VDS2 VSS) vsource dc=0.05


//============================================
// Test transistor D G S B
//============================================

N1 (VDS1 VGS VSS VBN) N_TRANSISTOR width=wdef length=ldef
N2 (VDS2 VGS VSS VBN) N_TRANSISTOR width=wdef length=ldef


