simulator lang=spectre

// Voltage sources
_VDD (VDD 0) vsource dc=pvdd
_VSS (VSS 0) vsource dc=0

_VWL (WL 0) vsource dc=pvwl
_VBL (BL 0) vsource dc=pvdd
_VBP (VBP 0) vsource dc=pvbp
_VBN (VBN 0) vsource dc=pvbn

//============================================
// Half cell
//============================================
subckt HALFCELL (IN OUT BL WL VDD VBP VSS VBN)
  MP (OUT IN VDD VBP) P_TRANSISTOR width=wp1 length=lp1
  MN (OUT IN VSS VBN) N_TRANSISTOR width=wn1 length=ln1
  MT (BL WL OUT VBN) N_TRANSISTOR width=wna length=lna
ends HALFCELL

//============================================
// Reset Half Cell
//============================================
subckt RSTHCELL (IN OUT RRST CRST VDD VBP VSS VBN)
  MP (OUT IN VDD VBP) P_TRANSISTOR width=wp2 length=lp2
  MN (OUT IN VSS VBN) N_TRANSISTOR width=wn2 length=ln2
  MT (RRST CRST OUT VBN) N_TRANSISTOR width=wrs length=lrs
ends RSTHCELL

// Devices
ICellL (QB Q BL_CELL WL VDD VBP VSS VBN) HALFCELL
ICellR (Q QB VDD 0 VDD VBP VSS VBN) RSTHCELL

// Current probes
IREAD BL BL_CELL iprobe

// DC Convergence
nodeset Q=0 QB=pvdd
