
//SRAM  use PTM models
// 
// RWM   --1/27/2009



simulator lang=spectre

// voltages
VVDD ( VDD 0 ) vsource dc=pvdd
VVSS ( VSS 0 ) vsource dc=pvss
VVBL ( BL 0 ) vsource dc=bitline
VBLB ( BLB 0 ) vsource dc=bitline
//VVWL ( VWL 0 ) vsource dc=0
VVBN ( VBN 0 ) vsource dc=pvbn
VVBP (VBP 0 ) vsource dc=pvbp
VA (A 0) vsource dc=pvIn
VVWL (VWL 0) vsource dc=wlv
VC (C 0) vsource dc=pvdd-pvIn



/////////////////////////////////////////////////////
// SubCircuits:  cell 
/////////////////////////////////////////////////////
//  drain gate source substrate
////////////////////////////////

//subckt F1 (A B BL BLB VWL VDD VSS VBP VBN)
XPpur ( A B VDD VBP ) PU_TRANSISTOR width=wpu length=lpu
XNpdr ( A B VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
//XNpdr ( A B VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
XNpgr ( BL VWL A VBN)  PG_TRANSISTOR width=wpg length=lpg
XPpul ( B A VDD VBP ) PU_TRANSISTOR width=wpu length=lpu
XNpdl ( B A VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
//XNpdl ( B A VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
XNpgl ( BLB VWL B VBN) PG_TRANSISTOR width=wpg length=lpg

//nodeset A=0 B=pvdd

XPpur1 ( D C VDD VBP ) PU_TRANSISTOR width=wpu length=lpu
XNpdr1 ( D C VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
//XNpdr1 ( D C VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
XNpgr1 ( BL VWL D VBN)  PG_TRANSISTOR width=wpg length=lpg
XPpul1 ( C D VDD VBP ) PU_TRANSISTOR width=wpu length=lpu
XNpdl1 ( C D VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
//XNpdl1 ( C D VSS VBN ) PD_TRANSISTOR width=wpd length=lpd 
XNpgl1 ( BLB VWL C VBN) PG_TRANSISTOR width=wpg length=lpg



