//============================================
// Define VDD and VSS
//============================================
VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0

//============================================
// bitcell for IRead
//============================================
subckt bitcell6TB BL BLB VBN VBP VDD VSS WL
MPR (QB Q VDD VBP) PU_TRANSITOR width=wpu length=lpu
MPL (Q QB VDD VBP) PU_TRANSITOR width=wpu length=lpu
MNR (QB Q VSS VBN) PD_TRANSISTOR width=wpd length=lpd
MNL (Q QB VSS VBN) PD_TRANSISTOR width=wpd length=lpd
MTL (BL WL Q VBN) PG_TRANSISTOR  width=wpg length=lpg
MTR (BLB WL QB VBN) PG_TRANSISTOR  width=wpg length=lpg
ends bitcell6TB

//============================================
// Test Read Current
//============================================
I0 (BL1 BLB1 VSS VDD VDD VSS WLA) bitcell6TB m=1
I1 (BL2 BLB2 VSS VDD VDD VSS WLU) bitcell6TB m=rowsM1

VBL (BL2 BL1) vsource dc=0
VBLB (BLB2 BLB1) vsource dc=0
VWLU (WLU 0) vsource dc=0
VWLA (WLA 0) vsource type=pulse val0=0 val1=pvdd delay=0.01n rise=0.01n fall=0.01n width=1n period=2n


//==================
//Initial Conditions
//==================
ic I1.QB=0 I1.Q=pvdd I0.QB=pvdd I0.Q=0 BLB2=pvdd BLB1=pvdd BL2=pvdd BL1=pvdd
