simulator lang=spectre

// Voltage sources
_VDD (VDD 0) vsource dc=pvdd
_VSS (VSS 0) vsource dc=0

_VWL (WL 0) vsource dc=pvwl
_VBL (BL 0) vsource dc=pvdd
_VBLB (BLB 0) vsource dc=pvdd
_VBP (VBP 0) vsource dc=pvbp

// Half cell
subckt HALFCELL (IN OUT BL WL VDD VBP VSS VBN)
  MP (OUT IN VDD VBP) PU_TRANSISTOR width=wpu length=lpu
  MN (OUT IN VSS VBN) PD_TRANSISTOR width=wpd length=lpd
  MT (BL WL OUT VBN) PG_TRANSISTOR width=wpg length=lpg
ends HALFCELL

// Devices
ICellAh (QB Q BL_CELL WL VDD VBP VSS VSS) HALFCELL 
ICellBh (Q QB BLB WL VDD VBP VSS VSS) HALFCELL

// Current probes
IREAD BL BL_CELL iprobe

// DC Convergence
nodeset Q=0 QB=pvdd
