
//SRAM  use PTM models
// 
// RWM   --10/13/2008

/////////////////////////////////////////////////////
// Options 
/////////////////////////////////////////////////////
//// Options set here will be overwritten by the values set in OCEAN script;
//// So options will be set in OCEAN script

// voltages
VVDD ( VDD 0 ) vsource dc=pvdd
VVSS ( VSS 0 ) vsource dc=0
VVBL ( BL 0 ) vsource dc=pvdd
VBLB ( BLB 0 ) vsource dc=pvdd
VVWL ( VWL 0 ) vsource dc=0
VVBN ( VBN 0 ) vsource dc=0

//define current value for particle spike
I1 (A 0) isource dc=0 type=exp  val0=0 val1=Ic  td1=100p td2=103p tau1=1p tau2=30p


/////////////////////////////////////////////////////
// SubCircuits:  cell 
/////////////////////////////////////////////////////
//  drain gate source substrate
////////////////////////////////


XPpur ( A B VDD VDD ) P_TRANSISTOR width=wpu length=lpu
XNpdr ( A B VSS VBN ) N_TRANSISTOR width=wpd length=lpd
XNpgr ( BL WL A VBN)  N_TRANSISTOR width=wpg length=lpg
XPpul ( B A VDD VDD ) P_TRANSISTOR width=wpu length=lpu
XNpdl ( B A VSS VBN ) N_TRANSISTOR width=wpd length=lpd
XNpgl ( BLB WL B VBN) N_TRANSISTOR width=wpg length=lpg



nodeset A=0 B=pvdd



//// Load
//c1 ( A 0 ) capacitor c=.03f 
//c2 ( B 0 ) capacitor c=.03f
c3 (A B) capacitor c=.3f