//============================================
// Define VDD and VSS
//============================================

VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0


//============================================
// Input voltage 
//============================================

VIN (IN VSS) vsource

subckt INV VDD VSS IN OUT
P1 (OUT IN VDD VDD) P_TRANSISTOR width=pw length=pl
N1 (OUT IN VSS VSS) N_TRANSISTOR width=nw length=nl
ends INV

//============================================
// Test inverter
//============================================

INV1 (VDD VSS IN OUT) INV

